US07989445B2
6-(4-fluorophenyl)-3-{2-[4-(1-pyrrolidin-1-ylethyl)phenyl]ethyl}thieno[3,2-d]pyrimidine-2,4(1H,3H)-dione
The obtained 3-amino-5-(4-fluorophenyl)-N-{2-[4-(1-pyrrolidin-1-ylethyl)phenyl]ethyl}thiophene-2-carboxamide (0.15 g) was suspended in 1,2-dichloroethane (5 ml), and triethylamine (0.067 ml) and triphosgene (0.080 g) were successively added with stirring. After 3 hr, pyrrolidine (0.8 ml) was added, and the reaction mixture was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography (hexane:ethyl acetate=9:1 (volume ratio)→1:2 (volume ratio)) using NH-silica gel, and further recrystallized from ethyl acetate to give the title compound (0.024 g) as pale-yellow crystals.

reactant | 3-amino-5-(4-fluorophenyl)-N-{2-[4-(1-pyrrolidin-1-ylethyl)phenyl]ethyl}thiophene-2-carboxamide | 0.15 g | NC1=C(SC(=C1)C1=CC=C(C=C1)F)C(=O)NCCC1=CC=C(C=C1)C(C)N1CCCC1 | C25H28FN3OS
reactant | triethylamine | 0.067 ml | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 0.080 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | pyrrolidine | 0.8 ml | N1CCCC1 | C4H9N
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(4-fluorophenyl)-3-{2-[4-(1-pyrrolidin-1-ylethyl)phenyl]ethyl}thieno[3,2-d]pyrimidine-2,4(1H,3H)-dione | 0.024 g | FC1=CC=C(C=C1)C1=CC=2NC(N(C(C2S1)=O)CCC1=CC=C(C=C1)C(C)N1CCCC1)=O | C26H26FN3O2S
